US08378118B2
Step-I: Preparation of [3,5-Diethyl-4-(7-methoxy-6-methyl-indan-4-ylmethyl)-pyrazol-1-yl]-acetic acid hydrazide
A stirred suspension of [3,5-Diethyl-4-(7-methoxy-6-methyl-indan-4-ylmethyl)-pyrazol-1-yl]-acetic acid ethyl ester (3.3 gm, 0.0085 mole) and 99% Hydrazine hydrate (33 ml) was heated at 60-65° C. for 3 hours. The reaction mixture was poured into water (200 ml), stirred for an hour and then filtered. The obtained solid was stirred in Methanol (10 ml), filtered and dried to give 2.9 gm of desired product as a solid.

reactant | [3,5-Diethyl-4-(7-methoxy-6-methyl-indan-4-ylmethyl)-pyrazol-1-yl]-acetic acid ethyl ester | 0.0085 mole, 3.3 gm | C(C)OC(CN1N=C(C(=C1CC)CC1=C2CCCC2=C(C(=C1)C)OC)CC)=O | C23H32N2O3
reactant | Hydrazine hydrate | 33 ml | O.NN
solvent | water | 200 ml | O | H2O
product | [3,5-Diethyl-4-(7-methoxy-6-methyl-indan-4-ylmethyl)-pyrazol-1-yl]-acetic acid hydrazide | 2.9 gm, Yield: 91.4% | C(C)C1=NN(C(=C1CC1=C2CCCC2=C(C(=C1)C)OC)CC)CC(=O)NN | C21H30N4O2
